US04133836
700 g of a mixture containing 90.2% by weight of 3-methyl-but-3-en-1-al and 5.3% by weight of 3-methyl-but-2-en-1-al, 2,780 g of 3-methyl-but-2-en-1-ol and 6 g of 51% strength aqueous nitric acid are boiled under 100 mm Hg in a 4 liter flask surmounted by a packed column (filled with 5 mm Raschig rings). The bottom temperature assumes a value of from 86 to 93° C. The column has a diameter of 45 mm and has 30 theoretical plates. The water formed in the reaction is taken off at the top of the column and the organic materials which separates from the water is returned continuously into the column. With a reflux of 600 g/hour, quantitative conversion of the aldehyde is achieved in 16 hours. After distilling off the excess alcohol, a mixture consisting of 74.5% by weight of 1,1-bis-(3-methyl-but-2-en-1-yloxy)-3-methyl-but- 3-ene and 10.6% by weight of 1,1-bis-(3-methyl-but-2-en-1-yloxy)-3-methyl-but-2-ene, together with the by-products 3-methyl-butadien-1-yl-3-methyl-but-2-en-1-yl-ether (5.9% by weight) and di-(3-methyl-but-2-en-1-yl)-ether is obtained. The selectivity of the acetals obtained is 86.5% based on the sum of the aldehydes employed and 72.5% based on 3-methyl-but-2-en-1-ol.

reactant | 3-methyl-but-3-en-1-al | CC(CC=O)=C | C5H8O
reactant | 3-methyl-but-2-en-1-al | CC(=CC=O)C | C5H8O
reactant | 3-methyl-but-2-en-1-ol | 2,780 g | CC(=CCO)C | C5H10O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | di-(3-methyl-but-2-en-1-yl)-ether | CC(=CCOCC=C(C)C)C | C10H18O
